US09120823B2
A mixture of 4-iodo-N1-methyl-benzene-1,2-diamine (850 mg), 3-chloro-pyridin-2-carboxylic acid (590 mg), WSC (790 mg), HOBt (46 mg), and pyridine (10 ml) was stirred at 100° C. for 12 hours. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was dried over sodium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 2-(3-chloro-pyridin-2-yl)-5-iodo-1-methyl-1H-benzimidazole (930 mg), which is hereinafter referred to as “intermediate compound (M6-21)”.

reactant | 4-iodo-N1-methyl-benzene-1,2-diamine | 850 mg | IC=1C=C(C(=CC1)NC)N | C7H9IN2
reactant | 3-chloro-pyridin-2-carboxylic acid | 590 mg | ClC=1C(=NC=CC1)C(=O)O | C6H4ClNO2
reactant | WSC | 790 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 46 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | water | O | H2O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 2-(3-chloro-pyridin-2-yl)-5-iodo-1-methyl-1H-benzimidazole | 930 mg | ClC=1C(=NC=CC1)C1=NC2=C(N1C)C=CC(=C2)I | C13H9ClIN3
